US04795815
Under a nitrogen atmosphere, allyl 3-(propionyl)-7-(R,S)-[2-(2-(allyloxycarbonylamino)thiazol-4-yl)-2-(Z)-methoxyiminoacetamido]-8-oxo-1,5-diazabicyclo[3.3.0]octa-2-ene-2-carboxylate (270 mg, 0.49 mmol) was suspended in a mixture of acetonitrile (10 ml)/diethyl ether (5 ml). Palladium(II) acetate (5.5 mg, 0.0245 mmol) and triphenylphosphine (51.4 mg, 0.196 mmol) were added to the suspension then acetone (45 ml) was added to effect solution and the resultant solution was stirred for 30 minutes at room temperature then cooled to 0° C. Tri(n-butyl)tin hydride (291.05 mg, 0.27 ml, 1 mmol) was added and the resultant solution was stirred at room temperature for 3 hours. Concentrated hydrochloric acid (12M, 0.08 ml, 1 mmol) was added and the solution was concentrated in vacuo. The concentrate was dissolved in methylene chloride, precipitation was effected by the addition of diethyl ether and the precipitate was collected by filtration. The precipitate was chromatographed by medium pressure liquid chromatography on a C18 column eluted with 10% acetonitrile/1% acetic acid in water. The product-containing fractions were lyophilized to give 43 mg (21%) of 3-(propionyl)-7-(R,S)-[2-(2-aminothiazol-4-yl)-2-(Z)-methoxyiminoacetamido]-8-oxo-1,5-diazabicyclo[3.3.0]octa-2-ene-2-carboxylic acid: n.m.r. (300 MHz, DMSO-d6): δ 0.92 (t, 3, J=6), 2.97 (dd, 1, J=6, 12), 2.46-2.48 (m, 2), 3.83 (s, 3), 3.00-4.20 (m, 3), 4.92-5.06 (m, 1), 7.03 (s, 1), 7.24 (br. s, 2), 9.15 (d, 1, J=9); i.r. (KBr) 3310 (br), 1716, 1636, 1534, 1414, 1380, 1257, 1050 cm- 1 ; u.v. (EtOH) λmax =233 (ε=15992), 300 (ε=6987), 350 (ε=9801); m.p.>260° C.; f.a.b.m.s. (m/e) M+ +1=423.

reactant | allyl 3-(propionyl)-7-(R,S)-[2-(2-(allyloxycarbonylamino)thiazol-4-yl)-2-(Z)-methoxyiminoacetamido]-8-oxo-1,5-diazabicyclo[3.3.0]octa-2-ene-2-carboxylate | 0.49 mmol, 270 mg | C(CC)(=O)C1=C(N2C(C(CN2C1)NC(\C(=N/OC)\C=1N=C(SC1)NC(=O)OCC=C)=O)=O)C(=O)OCC=C | C23H26N6O8S
reactant | triphenylphosphine | 0.196 mmol, 51.4 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Tri(n-butyl)tin hydride | 1 mmol, 0.27 ml, 291.05 mg | C(CCC)[SnH](CCCC)CCCC
reactant | hydrochloric acid | 1 mmol, 12M, 0.08 ml | Cl | ClH
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
catalyst | Palladium(II) acetate | 0.0245 mmol, 5.5 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | acetone | 45 ml | CC(=O)C | C3H6O
solvent | diethyl ether | 5 ml | C(C)OCC | C4H10O
product | 3-(propionyl)-7-(R,S)-[2-(2-aminothiazol-4-yl)-2-(Z)-methoxyiminoacetamido]-8-oxo-1,5-diazabicyclo[3.3.0]octa-2-ene-2-carboxylic acid | 43 mg, 21% | C(CC)(=O)C1=C(N2C(C(CN2C1)NC(\C(=N/OC)\C=1N=C(SC1)N)=O)=O)C(=O)O | C16H18N6O6S
